US08138173B2
To a mixture of 2-piperidin-4-ylethanol (10 g, 77 mmol) and dichloromethane (190 mL) at 0° C. was added di-(tert-butyl)dicarbonate (17.7 g, 81.3 mmol). The reaction was warmed to ambient temperature and stirred 4 hours. The reaction was washed with water, 10% aqueous potassium hydrosulfate, and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated to 20 g of tert-butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate as a clear oil. This clear oil was dissolved in dichloromethane (90 mL) and added dropwise over 20 minutes at 0° C. to a suspension of triphenylphosphine (20 g, 77 mmol), imidazole (5.3 g, 77 mmol), iodine (22 g, 85 mmol), and dichloromethane (300 mL). The reaction was stirred 5 hours at ambient temperature. The reaction was filtered and the filtrate was quenched with sodium bisulfite and diluted with water. The layers were separated. The aqueous layer was extracted with additional dichloromethane. The combined organic layers were dried over sodium sulfate, filtered, and concentrated to a brown oil. This oil was purified by chromatography (SiO2, 20% hexanes/ethyl acetate) to obtain 22 g of tert-butyl 4-(2-iodoethyl)piperidine-1-carboxylate as a colorless oil.

reactant | 2-piperidin-4-ylethanol | 77 mmol, 10 g | N1CCC(CC1)CCO | C7H15NO
reactant | di-(tert-butyl)dicarbonate | 81.3 mmol, 17.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triphenylphosphine | 77 mmol, 20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 77 mmol, 5.3 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 85 mmol, 22 g | II | I2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 190 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(2-iodoethyl)piperidine-1-carboxylate | 22 g | ICCC1CCN(CC1)C(=O)OC(C)(C)C | C12H22INO2
